US09326987B2
3-Fluoro-6-{1-[(4-methylphenyl)sulfonyl]-1H-pyrazolo[3,4-b]pyridin-5-yl}-1-(phenylsulfonyl)-1H-indazol-4-amine
5-Bromo-1-[(4-methylphenyl)sulfonyl]-1H-pyrazolo[3,4-b]pyridine (605 mg) in DMF (4 ml) was added to a solution of 3-fluoro-1-(phenylsulfonyl)-6-(trimethylstannanyl)-1H-indazol-4-amine (650 mg) in DMF (6 ml), treated with Pd( )Ph3)4 (165 mg) and then heated at 120° C. for 21 h. The solution was allowed to cool, filtered, and then evaporated. The residue was dissolved in chloroform, loaded onto a 100 g silica cartridge which was eluted with 0-100% ethyl acetate:cyclohexane over 60 min using the Flashmaster II. Appropriate peaks were combined and evaporated to give the title compound as a white solid, 0.577 g.

reactant | 5-Bromo-1-[(4-methylphenyl)sulfonyl]-1H-pyrazolo[3,4-b]pyridine | 605 mg | BrC=1C=C2C(=NC1)N(N=C2)S(=O)(=O)C2=CC=C(C=C2)C | C13H10BrN3O2S
reactant | 3-fluoro-1-(phenylsulfonyl)-6-(trimethylstannanyl)-1H-indazol-4-amine | 650 mg | FC1=NN(C=2C=C(C=C(C12)N)[Sn](C)(C)C)S(=O)(=O)C1=CC=CC=C1
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | 3-Fluoro-6-{1-[(4-methylphenyl)sulfonyl]-1H-pyrazolo[3,4-b]pyridin-5-yl}-1-(phenylsulfonyl)-1H-indazol-4-amine | FC1=NN(C=2C=C(C=C(C12)N)C=1C=C2C(=NC1)N(N=C2)S(=O)(=O)C2=CC=C(C=C2)C)S(=O)(=O)C2=CC=CC=C2 | C26H19FN6O4S2
